US05866594
Synthesis of methyl 3-bromo-4,7-dimethylindole-2-carboxylate (compound 57)
A solution of 1.0 g (4.9 mmol) of methyl 4,7-dimethylindole-2-carboxylate in 22 ml of DMF was cooled to 0° C. A solution of 1.03 g (9.8 mmol) of N-bromosuccinimide in 52 ml of DMF was added dropwise at 0° C. over a period of 1 hour and the reaction mixture was stirred for 30 minutes. The reaction mixture was poured into 400 ml of ice water, acidified with a 1N HCl aqueous solution and extracted with 100 ml of ethyl acetate three times. The ethyl acetate layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography to provide 510 mg of yellow crystals. Yield: 36%

reactant | methyl 4,7-dimethylindole-2-carboxylate | 4.9 mmol, 1.0 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
reactant | N-bromosuccinimide | 9.8 mmol, 1.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 22 ml | CN(C)C=O | C3H7NO
solvent | DMF | 52 ml | CN(C)C=O | C3H7NO
product | methyl 3-bromo-4,7-dimethylindole-2-carboxylate | 510 mg, Yield: 36% | BrC1=C(NC2=C(C=CC(=C12)C)C)C(=O)OC | C12H12BrNO2
